US06855710B2
a) 4-nitrobenzenesulphonic acid-dimethylamide
4.43 g (20 mmol) of 4-nitrobenzenesulphonic acid chloride are added dropwise at 0° C. to a solution of 2.45 g (30 mmol) of dimethylamine-hydrochloride and 6.46 g (50 mmol) of N,N-diisopropyl-N-methylamine in 30 ml of dichloromethane. The mixture is stirred for 18 hours at ambient temperature. Then the reaction solution is washed with water and dilute hydrochloric acid, dried over magnesium sulphate and evaporated to dryness.

reactant | 4-nitrobenzenesulphonic acid chloride | 20 mmol, 4.43 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | dimethylamine-hydrochloride | 30 mmol, 2.45 g | Cl.CNC
reactant | N,N-diisopropyl-N-methylamine | 50 mmol, 6.46 g | C(C)(C)N(C)C(C)C | C7H17N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 4-nitrobenzenesulphonic acid-dimethylamide | CN(S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])C | C8H10N2O4S
